US05688815
1-(2-Dimethylamino-ethyl)-3-hydroxy-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one
3-Benzyloxy-1-(2-dimethylamino-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one: From 5.2 g of 3-benzyloxy-1-(2-dimethylamino-ethyl)-2-[phenyl-(tetrahydropyran-2-yloxy)-methyl]-1H-pyridin-4-one there is obtained analogously to Example 6e, after chromatography: 3-benzyloxy-1-(2-dimethylamino-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one. Beige, amorphous foam. Rf value: 0.16 (silica gel 60, dichloromethane/ethanol 4/1).

reactant | 3-benzyloxy-1-(2-dimethylamino-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCN(C)C)C(C1=CC=CC=C1)O | C23H26N2O3
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-(2-Dimethylamino-ethyl)-3-hydroxy-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | CN(CCN1C(=C(C(C=C1)=O)O)C(C1=CC=CC=C1)O)C | C16H20N2O3
